US07855194B2
Step 1: 4-(4-Chloro-6-methoxy-[1,3,5]triazin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
To a stirred solution of 2,4-dichloro-6-methoxy-1,3,5-triazine (10.0 g, 55.6 mmol, 1.0 equiv) and 4-amino-piperidine-1-carboxylic acid tert-butyl ester (11.4 g, 55.6 mmol, 1.0 equiv) in acetonitrile (300 mL) was added drop by drop N-ethyl diisopropylamine (48.5 mL, 36.6 g, 278 mmol, 5.0 equiv) keeping the temperature below 25° C. After stirring the reaction mixture at rt for 16 h, the heterogeneous mixture was poured onto ice water and extracted three times with ethyl acetate. The combined organic layers were washed with brine and water, dried over MgSO4, filtered and concentrated by evaporation under reduced pressure. The crude product was purified by column chromatography on silica eluting with a gradient of dichloromethane/methanol to give 11.4 g (60%) of the title compound as a off-white foam. MS (ISP): 344.3 [M+H]+.

reactant | 2,4-dichloro-6-methoxy-1,3,5-triazine | 55.6 mmol, 10.0 g, 1.0 equiv | ClC1=NC(=NC(=N1)Cl)OC | C4H3Cl2N3O
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | 55.6 mmol, 11.4 g, 1.0 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | N-ethyl diisopropylamine | 278 mmol, 48.5 mL, 36.6 g, 5.0 equiv | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
product | 4-(4-Chloro-6-methoxy-[1,3,5]triazin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 11.4 g, 60% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=NC(=N1)Cl)OC | C14H22ClN5O3
